US03998951
A mixture of 17.5 g of 2-(2-chlorophenyl)quinazolin-4(3H)-one and 130 ml of thionyl chloride was treated as described in Example I with 5 g of dimethylformamide. The mixture was poured into 1000 ml of ice water and stirred until the ice was melted. The solid was collected by filtration and allowed to air-dry overnight. The solid was triturated with 500 ml of boiling cyclohexane. The insoluble solid was removed by filtration and the cyclohexane solution allowed to cool slowly. The solid which separated was collected to give pale yellow needles, m.p. 127°-129°. Recrystallization of the yellow needles from cyclohexane gave 9.9 g of 4-chloro-2-(2-chlorophenyl)quinazoline, m.p. 129.5°-130.5°; ir and nmr spectra were consistent with the assigned structure.

reactant | 2-(2-chlorophenyl)quinazolin-4(3H)-one | 17.5 g | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C14H9ClN2O
reactant | thionyl chloride | 130 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 5 g | CN(C=O)C | C3H7NO
product | 4-chloro-2-(2-chlorophenyl)quinazoline | 9.9 g | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)Cl | C14H8Cl2N2
